Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
Aspirin desensitization
 
Major Surgical or Invasive Procedure:
___ Diagnostic Left and right heart catheterization

 
History of Present Illness:
Pt is an ___ y/o male with hx of afib on warfarin, HFrEF, COPD, 
ASA who presents in setting of recent stress echo showing 
hypokinesis of anteroseptal and inferospetal walls, and EF of 
45%. He was recommended by Dr. ___ to have cardiac 
catheterization and was admitted to the CCU for monitoring and 
ASA desensitization protocol. 

Pt notes that he has felt to be in good health, but that in 
following up with his cardiologist he has noted gradual 
deteriorating heart function. His a-fib was diagnosed in ___, 
at that time LVEF was 60%

In ___ he had DCCV with restoration of sinus rhythm, noted 
improved functional capacity, less DOE, but this worsened in 
___ at which time he was still in rhythm control and no other 
med changes were made, and he has since then continued to follow 
with EP. He currently still has exertional shortness of breath, 
but this does not prevent him from exercising regularly, 
including long walks, some of which involve long stretches of 
uphill walking. 

He also established care with the heart failure service at ___ 
and was seen by Dr. ___ 0n ___. He was started on 
spironolactone and was referred to a stress-echo exam on which 
he was found to have evidence of inducible ischemia on echo and 
for which he will receive cardiac cath this hospital admission. 
He otherwise reports feeling well, has no other symptoms. He 
last took warfarin 4 days ago. 

ROS: Positive per HPI. Remaining 10 point ROS reviewed and 
negative.  
 
Past Medical History:
PSYCHIATRIC HISTORY:
No hx of psychiatric hospitalizations.
No history of suicide attempts or self-injurious behavior.
.
He has been on Zoloft, prescribed by PCP, for ___ years with good 
benefit to mood and anxiety.  He has experienced no side effects 
from the zoloft and specifically denies sexual side effects.  He 
has been prescribed Xanax and Klonopin in the past, but he found 
that made him too tired.
.
He has participated in regular therapy in the past, which was 
helpful, but not in the past ___ years. 
.
PAST MEDICAL HISTORY:
Hypertension
Persistent Atrial fibrillation (CHA2DS2VASc of 4 - CHF, age 
   >___, hypertension) 
Mildly-reduced LV systolic function
CAD
COPD
BPH
Arthritis
Colon polyps removed
s/p ruptured bicep
s/p rotator cuff surgery bilaterally
hx of basal cell ca and actinic keratoses
hx of head trauma, ___ and ___
 
Social History:
___
Family History:
Denies family history of cardiomyopathy, MI, arrhythmia, or 
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS:  T) 36.4, HR 74 BP 128/74 RR 18
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. EOMI.  
NECK: Supple, JVP not elevated while sitting or 45 degrees  
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or 
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No adventitious breath 
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant lesions or rashes, no urticarial lesions 
PULSES: Distal pulses palpable and symmetric.  
NEURO: AAOx3, moving all extremities

DISCHARGE PHYSICAL EXAM:
VS: ___ 0359: T 97.4, BP 137/77, HR 74, RR 17, O2 sat 99% on
RA. 
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. EOMI.  
NECK: Supple, JVP not elevated while sitting or 45 degrees  
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or 
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No adventitious breath 
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable 
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant lesions or rashes, no urticarial lesions 
PULSES: Distal pulses palpable and symmetric.  
NEURO: AAOx3.
 
Pertinent Results:
ADMISSION LABS:
===================
___ 10:31PM BLOOD WBC-5.8 RBC-4.39* Hgb-10.7* Hct-34.4* 
MCV-78* MCH-24.4* MCHC-31.1* RDW-18.1* RDWSD-50.7* Plt ___
___ 10:31PM BLOOD ___ PTT-32.9 ___
___ 10:31PM BLOOD Glucose-97 UreaN-46* Creat-1.3* Na-128* 
K-6.5* Cl-95* HCO3-22 AnGap-11
___ 10:31PM BLOOD Calcium-9.1 Phos-4.1 Mg-2.2 Iron-63
___ 10:31PM BLOOD calTIBC-433 Ferritn-36 TRF-333
___ 10:31PM BLOOD Osmolal-281

DISCHARGE LABS:
===================
___ 10:31PM   RET AUT-0.6 ABS RET-0.03
___ 09:16AM BLOOD WBC-5.8 RBC-4.21* Hgb-10.2* Hct-33.7* 
MCV-80* MCH-24.2* MCHC-30.3* RDW-18.8* RDWSD-53.7* Plt ___
___ 09:16AM BLOOD ___ PTT-36.0 ___
___ 09:16AM BLOOD Glucose-99 UreaN-30* Creat-1.0 Na-133* 
K-5.1 Cl-98 HCO3-24 AnGap-11
___ 09:16AM BLOOD Calcium-8.7 Phos-2.8 Mg-1.9

REPORTS:
===================
EKG- afib with some aberrantly conducted complexes, IVCD

LHC ___
Rt Dominant system
The left main, and left circumflex have no angiographically 
significant coronary abnormalities.
RCA
The right coronary artery. There is a proximal 80% stenosis. The 
lesion is has TIMI 3 grade flow, filling
the distal coronary bed completely.
RCA
The right coronary artery. There is a mid ___ stenosis. The 
lesion is has TIMI 3 grade flow, filling
the distal coronary bed completely.
There is a mid-distal 60-70% stenosis. The lesion is long and 
has TIMI 3 grade flow, filling the distal
coronary bed completely.
There is a distal 30% stenosis. The lesion is has TIMI 3 grade 
flow, filling the distal coronary bed
completely.
LAD
The left anterior descending coronary artery. There is a mid 20% 
stenosis.

RHC ___ Normal Cardiac Filling Pressures

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[ ] Will check Blood Work on ___
[ ] Follow up with PCP ___ 1 wk
[ ] ___ NP visit in ___
[ ] It is very important that you continue taking aspirin daily 

BRIEF HOSPITAL COURSE:
====================
Pt is an ___ y/o male with hx of afib on warfarin, HFrEF, COPD, 
ASA who presents in setting of recent stress echo showing 
hypokinesis of anteroseptal and inferospetal walls, and EF of 
45%. He was recommended by Dr. ___ to have cardiac 
catheterization and was admitted to the CCU for monitoring and 
ASA desensitization protocol. He completed the protocol without 
issues. He went for LHC/RHC on ___ which showed primarily 
disease of the RCA, however the decision was made for medical 
management alone over PCI. He continued on aspirin 81mg daily, 
lisinopril 10mg daily, and was started on 30mg Imdur daily to 
help with angina symptoms. He also was initially started on 
rivaroxaban from warfarin for atrial fibrillation, however due 
to cost issues, patient was resumed on warfarin 5mg daily. 

ACUTE ISSUES:
====================
#CAD
Cath showed RCA 60-70% stenosis at 3 points with TIMI grade 3 
flow, likely not causing his dyspnea. Right heart pressures 
within normal limits.  Recommended medical therapy, if no 
improvement, do PCI to RCA. Upon transfer to the floor he felt 
well and was able to ambulate well.
- continue aspirin 81mg daily. It is very important to take this 
medication daily to avoid allergy from developing again.
- continue lisinopril 10mg daily
- added on Imdur 30mg daily to help with afterload reduction and 
angina symptoms.
He will follow up in the clinic with his cardiologist Dr. 
___.

#A-fib 
Pt received two doses of rivaroxaban, but was transitioned back 
to warfarin to patient preference. 
INR 1.4 on discharge
- No rate or rhythm control indicated
- will be discharged on warfarin 5mg

#HTN 
-His blood pressure was controlled during his hospital stay. He 
will continue on lisinopril and imdur as above.

#HFrEF (LVEF 45%)
-furosemide 20mg once daily 
-lisinopril as above
-his Cr on discharge was 1.0 and weight was 79.3kg.

CHRONIC ISSUES:
====================
#Microcytic Anemia
Hemoglobin stable at baseline of approx. 10 with an MCV of 
approx. 78-80. His ferritin was 36, transferrin 333, and TIBC 
433, which is suggestive of iron deficiency anemia. We would 
recommend outpatient initiation of iron supplementation

#COPD  
He continued on Ellipta once daily as home medication, will 
albuterol nebs as needed

#Anxiety
-citalopram 40mg once daily 

#Vitamin Supplements 
-Vitamin B12 500mcg once daily 
-Zinc 50mg 
-Vitamin D3 1200mg BID 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 5 mg PO DAILY16 
2. Lisinopril 30 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. Spironolactone 25 mg PO DAILY 
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
6. Cyanocobalamin 500 mcg PO DAILY 
7. Ascorbic Acid ___ mg PO BID 
8. Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 mcg/actuation 
inhalation DAILY 
9. Citalopram 40 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
Take 81mg daily. It is important to take this medication every 
day.  
2.  Atorvastatin 80 mg PO QPM  
3.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  
5.  Zinc Sulfate 220 mg PO DAILY  
6.  Lisinopril 10 mg PO DAILY  
7.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
8.  Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation DAILY  
9.  Citalopram 40 mg PO DAILY  
10.  Cyanocobalamin 500 mcg PO DAILY  
11.  Furosemide 20 mg PO DAILY  
12.  Warfarin 5 mg PO DAILY16 
Target INR ___. HELD- Spironolactone 25 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until you talk with you 
cardiologist 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aspirin Desensitization
CAD
atrial fibrillation
HFrEF (45%)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___!

Why was I admitted to the hospital?
- You underwent an aspirin desensitization
- You underwent a coronary artery angiogram
- The angiogram demonstrated coronary artery disease, but it was 
not felt to be consistent with the abnormalities seen on your 
echocardiogram. The recommendation was to focus on medical 
management of the coronary disease. 

What should I do now that I am leaving the hospital?
-Please follow up with your doctors as ___
-Please continue to take your medicines as prescribed

We wish you the best!

Your ___ Care team.
 
Followup Instructions:
___